* C:\Users\nikla\Documents\00_Education\00_Hka\Mater\Projektarbeit\Projektarbeit_DSI3_Netzwerk\01_Hardware\01_LTSpice\Daniel\Master_Slave_aktuell\Master_Slave_Zwischenergebnis28052026.asc
V1 N004 0 5
Rm N004 BUS 10
XM1 N006 N011 0 RUR040N02
Vgpio N010 0 PULSE(0 3.3 1m 1u 1u 1m 5m)
D2 N006 BUS BZX84C3V0_ZTX
Vdd1 N002 0 5
V_1 N009 0 3.3
R2 BUS N005 10k
R3 N005 0 10k
R4 RX_ESP_Slave N009 10k
XU3 N004 BUS N001 0 RX_ESP_Master INA180A1
V3 N001 0 3.3
R6 RX_ESP_Master 0 10k
C1 N001 0 0
C2 RX_ESP_Master 0 0
XU1 N005 N003 N002 0 RX_ESP_Slave LM393
R8 N003 0 14.3k
R9 N009 N003 10k
C5 BUS 0 4.7n
R11 N010 N011 33
XM3 N007 GPIO_1 0 RUR040N02
XM4 N008 GPIO_2 0 RUR040N02
V§GPIO_1 GPIO_1 0 PWL(0 0 2.24m 0 2.25m 3.3 2.75m 3.3 2.76m 0 3m 0 3.01m 3.3 3.99m 3.3 4m 0)
V§GPIO_2 GPIO_2 0 PULSE(0 3.3 3m 1u 1u 1m 2m)
R14 BUS N007 560
R15 BUS N008 560
R§Pull_Down N011 0 10k
.model D D
.lib C:\Users\nikla\Documents\LTspiceXVII\lib\cmp\standard.dio
.include rur040n02_ltspice.lib
.include BZX84C3V0_ZTX.lib
.tran 5m
* PULSE(0 120m 3m 1u 1u 1m 5m)
* PWL(0 0 2m 0 2.001m 120m 3m 120m 3.001m 240m 4m 240m 4.001m 0)
.include LM393.lib
* MASTER
* SLAVE
.include ina180a1.lib
.include MCP6001.lib
* RX_Master
* TX_Master
* RX_Slave
* TX_Slave
* PULSE(0 3.3 3m 1u 1u 1m 5m)
.lib ina180a1.lib
.backanno
.end
