* RUR040N02 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/04/27
******************D G S
.SUBCKT RUR040N02 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 9.49m
D2       22 11 DDG
R2        2 22 13
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=98.985E-6
+ RS=10.000E-3
+ RD=0
+ VTO=.91009
+ RDS=20.000E6
+ TOX=2.0000E-6
+ CGSO=555p
+ CGDO=50p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.4
+ ETA=0.001
+ KAPPA=0
+ NFS=7G
.MODEL DDS D
+ IS=6.1162E-9
+ N=1.5142
+ RS=8.7760E-3
+ IKF=26.945
+ CJO=90.166E-12
+ M=.16135
+ VJ=.87082
+ BV=20
+ TT=33n
.MODEL DDG D
+ CJO=414.77E-12
+ M=.88133
+ VJ=.75714
+ N=10000
+ FC=-0.8
.MODEL RTH RES
+ TC1=0.009
+ TC2=0.00003
.ENDS RUR040N02
